US07875645B2
rac-2-(1-p-Tolyl-propyl)-4,5-dihydro-1H-imidazole was prepared from rac-2-p-tolyl-butyronitrile and ethylene diamine in analogy to Example 22: colourless powder; MS (ISP): 203.0 ((M+H)+.).

reactant | rac-2-p-tolyl-butyronitrile | C1(=CC=C(C=C1)C(C#N)CC)C | C11H13N
reactant | ethylene diamine | C(CN)N | C2H8N2
product | rac-2-(1-p-Tolyl-propyl)-4,5-dihydro-1H-imidazole | C1(=CC=C(C=C1)C(CC)C=1NCCN1)C | C13H18N2
